US05652237
2-[Methyl-(2-iodo-phenyl)-amino]benzo[d][1,3]oxazin-4-one
A solution of 2-methoxycarbonylphenyl isocyanate (1.0 g, 5.6 mmol), N-methyl-2-iodoaniline, hydrochloride (1.6 g, 5.9 mmol) and N,N-diisopropylethylamine (1.1 mL, 6.3 mmol) in 100 mL of toluene was refluxed under N2 for 72 hours. The sample was concentrated, and partitioned between chloroform and 10% HCl. The chloroform was dried (MgSO4), filtered, concentrated and chromatographed (silica gel, methylene chloride) to give the title compound as a yellow solid, mp 144°-148° C.

reactant | 2-methoxycarbonylphenyl isocyanate | 5.6 mmol, 1.0 g | COC(=O)C1=C(C=CC=C1)N=C=O | C9H7NO3
reactant | N-methyl-2-iodoaniline, hydrochloride | 5.9 mmol, 1.6 g | Cl.CNC1=C(C=CC=C1)I
reactant | N,N-diisopropylethylamine | 6.3 mmol, 1.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[Methyl-(2-iodo-phenyl)-amino]benzo[d][1,3]oxazin-4-one | CN(C=1OC(C2=C(N1)C=CC=C2)=O)C2=C(C=CC=C2)I | C15H11IN2O2
